subckt unit1t1r(TE TG BL GND)
  parameters G=100u
  R0 (TE net1) resistor r=1/G
  M0 (net1 TG BL GND) n_33_mm w=3u l=340.0n nf=2 mis_flag=1 ad=1.26e-12 \
        as=1.92e-12 pd=3.84u ps=7.28u m=(2)*(1) mf=(2)*(1)
ends unit1t1r

